US06277851B1
Step A: 2-(2-Cyanophenoxy)ethyl acetate
Potassium carbonate (30 mmol) and then ethyl acetate (11 mmol) are added to a solution of 2-hydroxybenzonitrile (10 mmol) in acetonitrile. After stirring overnight, the solution is filtered and evaporated, the residue is taken up in ethyl acetate, and the organic phase is washed, dried and then evaporated to yield the expected product.

reactant | Potassium carbonate | 30 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 11 mmol | C(C)(=O)OCC | C4H8O2
reactant | 2-hydroxybenzonitrile | 10 mmol | OC1=C(C#N)C=CC=C1 | C7H5NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(2-Cyanophenoxy)ethyl acetate | C(C)(=O)OCCOC1=C(C=CC=C1)C#N | C11H11NO3
